US06982348B2
A solution of benzyl (2RS,3RS)-3-hydroxy-3-[4-(methoxycarbonyl)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate (69.90 g, 134.3 mmol) in ethanol (200 ml) was hydrogenated overnight using 10% palladium/carbon (containing water by 50%). (5 g) as a catalyst under normal pressure. The catalyst was removed by filtration, washed with ethanol, and the solvent of the recovered filtrate was evaporated under reduced pressure to give crude (2RS,3RS)-3-hydroxy-3-[4-(methoxycarbonyl)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionic acid as a colorless foam.

reactant | benzyl (2RS,3RS)-3-hydroxy-3-[4-(methoxycarbonyl)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionate | 134.3 mmol, 69.90 g | OC(C(C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)C(=O)OC | C27H24F4O6
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | (2RS,3RS)-3-hydroxy-3-[4-(methoxycarbonyl)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propionic acid | OC(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)C(=O)OC | C20H18F4O6
